US07795436B2
cis-3-Benzyl-6-bromo-8-methyl-2,3,4,4a,9,9a-hexahydro-1H-3-aza-fluorene
To a solution of cis-3-Benzyl-6-bromo-8-methyl-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one (1.5 g, 4.0 mmol) in trifluoroacetic acid (15 mL) was added Et3SiH (10 mL). The reaction mixture was stirred at 20° C. for 3 days then concentrated in vacuo. The residue was basified with NH4OH then extracted with EtOAc. The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The residue was chromatographed in silica gel column (Hex/EtOAc 9/1) to give the title compound (440 mg, 1.23 mmol): MS (ES) 356.1 (M+H).

reactant | cis-3-Benzyl-6-bromo-8-methyl-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one | 4.0 mmol, 1.5 g | C(C1=CC=CC=C1)N1CC[C@H]2C(C3=C(C=C(C=C3[C@H]2C1)Br)C)=O | C20H20BrNO
reactant | Et3SiH | 10 mL | [SiH](CC)(CC)CC | C6H16Si
solvent | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
product | cis-3-Benzyl-6-bromo-8-methyl-2,3,4,4a,9,9a-hexahydro-1H-3-aza-fluorene | 1.23 mmol, 440 mg | C(C1=CC=CC=C1)N1CC[C@H]2CC3=C(C=C(C=C3[C@H]2C1)Br)C | C20H22BrN
